US07531547B2
2,5-Diiodo-4-methoxy-phenol (2.8 g, 7.5 mmol) and potassium carbonate (2.1 g) were added to 30 mL of stirring acetone at room temperature and under nitrogen. Bromoacetonitrile (0.575 mL, 8.25 mmol) was added, and the reaction mixture was heated to 60° C. and stirred under nitrogen for 8 hours, then stirred for 18 hours under nitrogen at room temperature. The reaction mixture concentrated under reduced pressure, and the residue was poured into water and extracted into EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was chromatographed on 150 g of flash silica (5%-20% EtOAc/hexanes) to give 2.86 g of (2,5-Diiodo-4-methoxy-phenoxy)-acetonitrile, MS (M+H)=416.

reactant | 2,5-Diiodo-4-methoxy-phenol | 7.5 mmol, 2.8 g | IC1=C(C=C(C(=C1)OC)I)O | C7H6I2O2
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | Bromoacetonitrile | 8.25 mmol, 0.575 mL | BrCC#N | C2H2BrN
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | (2,5-Diiodo-4-methoxy-phenoxy)-acetonitrile | 2.86 g | IC1=C(OCC#N)C=C(C(=C1)OC)I | C9H7I2NO2
